US06498159B1
1-Chloro-4-[(3-chloro-4-methylbenzyl)amino]-6-phthalazinecarbonitrile
1,4-Dichlorophthalazine-6-carbonitrile and 3-chloro-4-methylbenzylamine were stirred at room temperature in 1-methyl-2-pyrrolidinone in the presence of DBU, whereby the title compound was obtained as a less polar compound.

reactant | 1,4-Dichlorophthalazine-6-carbonitrile | ClC1=NN=C(C2=CC(=CC=C12)C#N)Cl | C9H3Cl2N3
reactant | 3-chloro-4-methylbenzylamine | ClC=1C=C(CN)C=CC1C | C8H10ClN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | 1-methyl-2-pyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-Chloro-4-[(3-chloro-4-methylbenzyl)amino]-6-phthalazinecarbonitrile | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)C)Cl | C17H12Cl2N4
